US07365085B2
a) (3-Hydroxy-benzyl)-carbamic acid tert butyl ester
3-hydroxybenzylamine (Apin, 1.0 g, 8.1 mmole) was dissolved in DMF(25 ml). Triethylamine (0.33 ml, 2.4 mmole) and (BOC)2O (1.8 g, 8.1 mmole) were added, the mixture stirred over night at room temperature under argon atmosphere. The reaction was concentrated, chromatographed on silica gel (0 to 20% EtOAc/hexanes) to give the titled compound (400 mg, 22%). MH+223.0

reactant | 3-hydroxybenzylamine | 8.1 mmole, 1.0 g | OC=1C=C(CN)C=CC1 | C7H9NO
reactant | Triethylamine | 2.4 mmole, 0.33 ml | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 8.1 mmole, 1.8 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (3-Hydroxy-benzyl)-carbamic acid tert butyl ester | 400 mg, 22% | C(C)(C)(C)OC(NCC1=CC(=CC=C1)O)=O | C12H17NO3
